US09334263B2
To a suspension of 2-(4-(tert-butoxycarbonyl)piperazin-1-yl)pyrimidine-5-carboxylic acid (13.8 g, 44.8 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (12.8 g, 67.2 mmol) and hydroxybenzotriazole (7.2 g, 53.7 mmol) in dichloromethane (200 mL) was added triethylamine (25 mL, 179.2 mmol). The mixture was stirred at room temperature for 1 hour, and then N,O-dimethylhydroxylamine (5 g, 53.7 mmol) was added. The reaction mixture was stirred for another 3 hours. LCMS showed the reaction was completed. The reaction mixture was directly washed with water (100 mL), and the organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (petroleum ether:ethyl acetate=1:1) to give tert-butyl 4-(5-(methoxy(methyl)carbamoyl)pyrimidin-2-yl)piperazine-1-carboxylate (11.2 g, 67%) as a white solid. MS (ES+) C16H25N5O4 requires: 351, found: 296 [M-56+H]+.

reactant | 2-(4-(tert-butoxycarbonyl)piperazin-1-yl)pyrimidine-5-carboxylic acid | 44.8 mmol, 13.8 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C(=O)O | C14H20N4O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 67.2 mmol, 12.8 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole | 53.7 mmol, 7.2 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 179.2 mmol, 25 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine | 53.7 mmol, 5 g | CNOC | C2H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(5-(methoxy(methyl)carbamoyl)pyrimidin-2-yl)piperazine-1-carboxylate | 11.2 g, 67% | CON(C(=O)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C16H25N5O4
